US05118686
4,6-Dihydroxy-2-(2-propoxyphenyl)pyrimidine
A stirred mixture of diethyl malonate (17.62 g), 2-propoxybenzamidine methanesulphonate (29.03 g) and sodium ethoxide in ethanol (from sodium, 6.9 g, and ethanol, 150 ml) was heated under reflux for 6 hours. The cooled reaction mixture was evaporated under reduced pressure to yield a residue which was dissolved in water. Concentrated hydrochloric acid was added to the aqueous solution to yield the title compound, 21.56 g. A sample (0.5 g) of this material was recrystallised twice from methanol to yield the pure title compound, 0.119 g, m.p. 224°-5° C.

reactant | diethyl malonate | 17.62 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-propoxybenzamidine methanesulphonate | 29.03 g | CS(=O)(=O)O.C(CC)OC1=C(C(=N)N)C=CC=C1
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 150 ml, 6.9 g | C(C)O | C2H6O
solvent | water | O | H2O
product | 4,6-Dihydroxy-2-(2-propoxyphenyl)pyrimidine | OC1=NC(=NC(=C1)O)C1=C(C=CC=C1)OCCC | C13H14N2O3
